US07105508B1
5-[2-({[6-(1H-Benzimidazol-2-yl)-3-pyridinyl]methyl}amino)-2-oxoethyl]-6-oxo-6,11-dihydro-5H-dibenzo[b,e]azepin-11-yl acetate (17)
Methyl {5-[2-({[6-(1H-benzimidazol-2-yl)-3-pyridinyl]methyl}-amino)-2-oxoethyl]-6-oxo-6,11-dihydro-5H-dibenzo[b,e]azepin-11-yl}acetate (1.4 g) was dissolved in 30 ml of 5:1 dioxane/H2O and, after addition of 2.15 eq. of KOH (0.2 g), heated to reflux. After the reaction was complete (12 h), the mixture was evaporated, and the resulting crude product was purified by MPLC (silica gel: Bischoff Prontoprep 60–2540-C18E, 32 μm; eluent: CH3CN/H2O+0.1% acetic acid) and then lyophilized.

reactant | Methyl {5-[2-({[6-(1H-benzimidazol-2-yl)-3-pyridinyl]methyl}-amino)-2-oxoethyl]-6-oxo-6,11-dihydro-5H-dibenzo[b,e]azepin-11-yl}acetate | 1.4 g | N1C(=NC2=C1C=CC=C2)C2=CC=C(C=N2)CNC(CN2C1=C(C(C3=C(C2=O)C=CC=C3)CC(=O)OC)C=CC=C1)=O | C32H27N5O4
reactant | KOH | 0.2 g, 2.15 eq. | [OH-].[K+]
reactant | dioxane H2O | 30 ml | O1CCOCC1.O
product | 5-[2-({[6-(1H-Benzimidazol-2-yl)-3-pyridinyl]methyl}amino)-2-oxoethyl]-6-oxo-6,11-dihydro-5H-dibenzo[b,e]azepin-11-yl acetate | C(C)(=O)OC1C2=C(N(C(C3=C1C=CC=C3)=O)CC(=O)NCC=3C=NC(=CC3)C3=NC1=C(N3)C=CC=C1)C=CC=C2 | C31H25N5O4
